US06140351
A mixture of benzoxazine-2,4-dione (1.6 g, 10 mmol) and 4-chloroaniline (2.5 g, 20 mmol) in 1,4-dioxane (30 mL) was heated at reflux for 15 hours. After cooling the solid was filtered, and the filtrate was concentrated, washed with ethyl ether. The washing was concentrated further to a solid. Additional washing with cold ethyl ether (10 mL) afforded N-(4-chlorophenyl)-2-aminobenzamide as a tan solid; NMR (DMSO-d6) 10.1 (s, 1), 7.8 (d, 2), 7.6 (d, 1), 7.4 (d, 2), 7.2 (t, 1), 6.8 (d, 1), 6.6 (t, 1), 6.3 (s, 2) ppm.

reactant | 4-chloroaniline | 20 mmol, 2.5 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | N-(4-chlorophenyl)-2-aminobenzamide | ClC1=CC=C(C=C1)NC(C1=C(C=CC=C1)N)=O | C13H11ClN2O
